US09289419B2
Synthesis of tert-butyl 3-oxoazetidine-1-carboxylate
PCC (4.94 g, 22.8 mmol) was added portion wise to a stirred solution of tert-butyl-3-hydroxyazetidine-1-carboxylate (3.3 g, 19 mmol) in DCM (50 mL) at 20-35° C. and the reaction mixture was stirred continuously at the same temperature for 12-16 h. The reaction mixture was filtered and the filtrate was washed with water, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the crude product, which was purified by column chromatography (using 60-120 silica gel and 10% EtOAc in Hexane as eluent) to afford 650 mg of the title compound.

reactant | PCC | 22.8 mmol, 4.94 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | tert-butyl-3-hydroxyazetidine-1-carboxylate | 19 mmol, 3.3 g | C(C)(C)(C)OC(=O)N1CC(C1)O | C8H15NO3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-oxoazetidine-1-carboxylate | 650 mg | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
